US07544697B2
Sodium tert-butoxide (15.4 g, 160 mmol) was combined with ethanol (53 mL) and allowed to stir for 30 minutes. 5-Benzenesulfonylpentan-2-one (16.8 g, 74.2 mmol) and diethyl oxalate (10.1 mL, 74.2 mmol) were added to the reaction mixture in 20 mL of ethanol via an addition funnel. The reaction was maintained for 1 hour and the solution changed in color from orange to red. Potassium acetate (10.9 g, 111 mmol) was added to the reaction mixture, followed by addition of acetic acid (37 mL, 2M). The reaction mixture was then cooled to 0° C. and butyl hydrazine oxalate (13.2 g, 74.2 mmol) was added. The resultant slurry was stirred for 2 hours and turned yellow. The reaction mixture was concentrated under reduced pressure, diluted with water, and the pH of the mixture was adjusted to 11 by addition of sodium carbonate. The reaction mixture was extracted with chloroform while adding additional water to minimize elusion formation. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford a red oil. The material was purified by column chromatography on silica gel (eluting with hexane:ethyl acetate in a gradient from 3:1 to 1:1) to yield 13.3 g of ethyl 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxylate as an orange oil.

reactant | Sodium tert-butoxide | 160 mmol, 15.4 g | CC(C)([O-])C.[Na+]
reactant | 5-Benzenesulfonylpentan-2-one | 74.2 mmol, 16.8 g | C1(=CC=CC=C1)S(=O)(=O)CCCC(C)=O | C11H14O3S
reactant | diethyl oxalate | 74.2 mmol, 10.1 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Potassium acetate | 111 mmol, 10.9 g | C(C)(=O)[O-].[K+]
reactant | butyl hydrazine oxalate | 74.2 mmol, 13.2 g | C(C(=O)O)(=O)O.C(CCC)NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 53 mL | C(C)O | C2H6O
solvent | acetic acid | 2M, 37 mL | C(C)(=O)O | C2H4O2
product | ethyl 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxylate | 13.3 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1=CC(=NN1CCCC)C(=O)OCC | C19H26N2O4S
